US04500709
7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid (syn isomer, 1 g.) was allowed to react with 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2 g.) in a similar manner to that of Example 1 to give the captioned compound (2.0 g.), pale yellow powder, mp. 145° to 150° C. (dec.).

reactant | 2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid | 1 g | O1CCSC=C1C(C(=O)O)=NOC | C7H9NO4S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOC | C17H19N7O6S3
